US07670751B2
Synthesis of 3,7,12-triformyloxycholanoic acid chloride
By a standard technique using cholic acid and formalin, 3,7,12-triformyloxycholanoic acid was synthesized. It was then chlorinated using oxalyl chloride. The crude product thus obtained was used in the subsequent step of esterification without purification.

reactant | cholic acid | C[C@H](CCC(=O)O)[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)O)C | C24H40O5
reactant | formalin | C=O | CH2O
reactant | 3,7,12-triformyloxycholanoic acid | C(=O)OC1CC2CC([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)O)C)[C@]4(C(C[C@@H]3[C@]2(CC1)C)OC=O)C)OC=O | C27H40O8
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 3,7,12-triformyloxycholanoic acid chloride | C(=O)OC1CC2CC([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)Cl)C)[C@]4(C(C[C@@H]3[C@]2(CC1)C)OC=O)C)OC=O | C27H39ClO7
